US07723356B2
Ai) 2-Bromo-N-isoxazol-3-yl-acetamide
To a stirred solution of bromoacetylbromide (5.36 ml, 61.6 mmol) in diethylether (100 ml) at −40° C. is added, dropwise over 20 minutes, a solution of 3-aminoisoxazol (5.0 ml, 67.0 mmol) and triethylamine (8.5 ml, 61.4 mmol) in diethylether (20 ml). Additional diethylether (50 ml) is added and stirring continued for 3 hours. The reaction mixture is filtered and the solution then washed with 1 M sodium carbonate solution, 1 M hydrochloric acid and brine. Concentration followed by purification by flash silica column chromatography (ethyl acetate/iso-hexane 4:7) gives the title compound as a white solid.

reactant | bromoacetylbromide | 61.6 mmol, 5.36 ml | BrCC(=O)Br | C2H2Br2O
reactant | 3-aminoisoxazol | 67.0 mmol, 5.0 ml | NC1=NOC=C1 | C3H4N2O
reactant | triethylamine | 61.4 mmol, 8.5 ml | C(C)N(CC)CC | C6H15N
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | 2-Bromo-N-isoxazol-3-yl-acetamide | BrCC(=O)NC1=NOC=C1 | C5H5BrN2O2
